US05081237
To a solution of 1-allyloxycarbonyl-2-(2-methyl-3-oxo-1-butenyl)piperidine (9.9 g), (3R,4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (17.0 g) and triethylamine (16.5 ml) in dichloromethane (100 ml) was added trimethylsilyl trifluoromethanesulfonate (28.6 ml at -15° C. After stirring at 0° C. for 2 hours, the reaction mixture was taken up into a mixture of ethyl acetate (200 ml) and water (200 ml). The mixture was stirred for 2 hours at ambient temperature. After addition of sodium chloride (40 g), the organic layer was separated, washed with saturated sodium hydrogen carbonate and brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (300 ml) eluting with a mixture of n-hexane and ethyl acetate (5:1-7:3, V/V) to give (3S,4R)-4-[4-(1-allyloxycarbonylpiperidin-2-yl)-3-methyl-2-oxo-3-butenyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (13.48 g).

reactant | 1-allyloxycarbonyl-2-(2-methyl-3-oxo-1-butenyl)piperidine | 9.9 g | C(C=C)OC(=O)N1C(CCCC1)C=C(C(C)=O)C | C14H21NO3
reactant | (3R,4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 17.0 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | trimethylsilyl trifluoromethanesulfonate | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | sodium chloride | 40 g | [Cl-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 16.5 ml | C(C)N(CC)CC | C6H15N
product | (3S,4R)-4-[4-(1-allyloxycarbonylpiperidin-2-yl)-3-methyl-2-oxo-3-butenyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 13.48 g | C(C=C)OC(=O)N1C(CCCC1)C=C(C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C25H42N2O5Si
